US05670505
Sodium azide (0.21 g) was added to a stirred mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(cyanomethyl)-2-(1H-indol-3-yl-methyl)piperazine (0.32 g) and ammonium chloride (0.17 g) in dimethylformamide (5 ml). The mixture was stirred at 115° C. for 16 hours. Additional sodium azide and ammonium chloride were added to the reaction mixture until the starting material was consumed. After cooling, the mixture was poured into ice-cold water. The resulting precipitate was collected by filtration, washed with water and dried. The precipitate was treated with 4N hydrogen chloride in dioxane solution to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-(1H-tetrazol-5-yl-methyl)piperazine hydrochloride (0.19 g).

reactant | Sodium azide | 0.21 g | [N-]=[N+]=[N-].[Na+]
reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-4-(cyanomethyl)-2-(1H-indol-3-yl-methyl)piperazine | 0.32 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#N)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C24H20F6N4O
reactant | ammonium chloride | 0.17 g | [Cl-].[NH4+]
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)-4-(1H-tetrazol-5-yl-methyl)piperazine hydrochloride | 0.19 g | Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC2=NN=NN2)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C24H21F6N7O.ClH/c25-23(26,27)16-7-14(8-17(10-16)24(28,29)30)22(38)37-6-5-36(13-21-32-34-35-33-21)12-18(37)9-15-11-31-20-4-2-1-3-19(15)20;/h1-4,7-8,10-11,18,31H,5-6,9,12-13H2,(H,32,33,34,35);1H/t18-;/m1./s1
